US09381196B2
To a solution of N-cyclopropyl-2-nitroaniline (365 mg, 2.05 mmol) and ammonium formate (516 mg, 8.2 mmol) in methanol was added catalytic amount of palladium on carbon (5%). The mixture was heated to reflux under a nitrogen atmosphere overnight and filtered. The filtrate was concentrated and purified by biotage column chromatography to give N1-cyclopropylbenzene-1,2-diamine (296 mg)

reactant | N-cyclopropyl-2-nitroaniline | 2.05 mmol, 365 mg | C1(CC1)NC1=C(C=CC=C1)[N+](=O)[O-] | C9H10N2O2
reactant | ammonium formate | 8.2 mmol, 516 mg | C(=O)[O-].[NH4+]
solvent | methanol | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | N1-cyclopropylbenzene-1,2-diamine | 296 mg | C1(CC1)NC=1C(=CC=CC1)N | C9H12N2
